US08729078B2
In a 25 mL round-bottomed flask, 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-((dimethylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (8 mg, 15.3 μmol, Eq: 1.00) and [hydrogen bis(dimethylphosphinito-kP)]platinum (II) (655 μg, 1.53 μmol, Eq: 0.1) were combined with Ethanol (1 mL) and Water (1 mL) to give a colorless solution. The reaction mixture was heated to 45° C. and stirred for 1 h. The crude reaction mixture was concentrated in vacuo. The LCMS of crude shows the desired product. The reaction mixture was diluted with acetonitrile and water and filtered and passed through HPLC purification followed by lyophalization to give 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide (2.5 mg, 30%, [M+H]+ 543)

reactant | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-((dimethylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 15.3 μmol, 8 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)CN(C)C)C#N)CO | C30H29FN6O2
reactant | Ethanol | 1 mL | C(C)O | C2H6O
solvent | Water | 1 mL | O | H2O
product | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide | 2.5 mg, 30% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)CN(C)C)C(=O)N)CO | C30H31FN6O3
